US03952025
A solution of 1.8 g. of cyclopropylcarbonyl chloride in 50 ml. of dry chloroform is added dropwise to a cooled mixture of 3.1 g. of 2-phenyl-4,6,7,8-tetrahydrofuro[3,2-c]azepine and 1.7 g. of triethylamine in 50 ml. of dry chloroform. After addition, the reaction mixture is stirred at ambient temperature for 20 hours, washed with water and dried. The chloroform is removed and the residue is triturated with n-hexane to produce a solid product. The product is recrystallized from n-hexane to give 2-phenyl-5-cyclopropylcarbonyl-4,6,7,8-tetrahydrofuro[3,2-c]azepine, m.p. 108°-110°C.

reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2-phenyl-4,6,7,8-tetrahydrofuro[3,2-c]azepine | C1(=CC=CC=C1)C1=CC=2CNCCCC2O1 | C14H15NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-phenyl-5-cyclopropylcarbonyl-4,6,7,8-tetrahydrofuro[3,2-c]azepine | C1(=CC=CC=C1)C1=CC=2CN(CCCC2O1)C(=O)C1CC1 | C18H19NO2
